* INA118
*****************************************************************************
* (C) Copyright 2011 Texas Instruments Incorporated. All rights reserved.                                            
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer.
*****************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model.
*
*****************************************************************************
*
** Released by: Analog eLab Design Center, Texas Instruments Inc.
* Part: INA118
* Date: 13JUN2011
* Model Type: ALL IN ONE
* Simulator: PSPICE
* Simulator Version: 16.0.0.p001
* EVM Order Number: N/A
* EVM Users Guide: N/A
* Datasheet: SBOS027
*
* Model Version: 1.0
*
*****************************************************************************
* 
* Updates:
*
* Version 1.0 : 
* Release to Web
*
*****************************************************************************
***** INA118 SUB-CIRCUIT

* CONNECTIONS:          NON-INVERTING INPUT

*                       |   INVERTING INPUT

*                       |   |   POSITIVE POWER SUPPLY

*                       |   |   |   NEGATIVE POWER SUPPLY

*                       |   |   |   |   OUTPUT

*                       |   |   |   |   |   REFERENCE

*                       |   |   |   |   |   |   GAIN SENSE 1

*                       |   |   |   |   |   |   |   GAIN SENSE 2

*                       |   |   |   |   |   |   |   |

.SUBCKT INA118         1   2   3   4   5   8   9  10

*

***** A1_118 SUB-CIRCUIT

* CONNECTIONS:          NON-INVERTING INPUT

*                       |   INVERTING INPUT

*                       |   |   POSITIVE POWER SUPPLY

*                       |   |   |   NEGATIVE POWER SUPPLY

*                       |   |   |   |   OUTPUT

*                       |   |   |   |   |

X1                     15  17   3   4  11   A1_118

*

***** A2_118 SUB-CIRCUIT

* CONNECTIONS:          NON-INVERTING INPUT

*                       |   INVERTING INPUT

*                       |   |   POSITIVE POWER SUPPLY

*                       |   |   |   NEGATIVE POWER SUPPLY

*                       |   |   |   |   OUTPUT

*                       |   |   |   |   |

X2                     15  16   3   4  12   A2_118

*

***** A3_118 SUB-CIRCUIT

* CONNECTIONS:          NON-INVERTING INPUT

*                       |   INVERTING INPUT

*                       |   |   POSITIVE POWER SUPPLY

*                       |   |   |   NEGATIVE POWER SUPPLY

*                       |   |   |   |   OUTPUT

*                       |   |   |   |   |

X3                     14  13   3   4   5   A3_118

*

R1    11  13   60.0000K

R2    13   5   59.994K

R3    12  14   60.0000K

R4    14   8   60.0000K

CIN   13  14    4.0000PF

*

R1FB   9  11   25.0000K

CC1   17  11  13.0000PF

R2FB  10  12   25.0000K

CC2   16  12  13.0000PF

CG1    9   0  10.0000PF

CG2   10   0   9.0000PF

****************************

* INA118 "E" - ENHANCEMENTS

****************************

RDIFF  1   2   1.0000E10

R1CM   1   0   2.5000E10

R2CM   2   0   2.5000E10

CDIF   1   2   1.0000PF

C1CM   1   0   4.0000PF

C2CM   2   0   4.0000PF

****************************

RCE   17   9   1.7G

*

I1     3  16  DC  15.00E-6

I2     3  17  DC  15.00E-6

IB1CAN 3   1  DC  29.00E-9

IB2CAN 3   2  DC  29.00E-9



*

D1    15  17      DX

D2    15  16      DX

*

Q1    16   1  10  QX

Q2    17   2   9  QX

*

V1     3  15  DC  1.100

*

*********************************

* INA118 "E" - ENHANCEMENTS

*********************************

* POS INPUT PROTECTION

VS11 3  31 0

S11  31  0 1 0 SP

FS12 1   4 VS11 1 

FS11 0   3 VS11 1

VS21 32  4 0 

S21  0  32 1 0 SM

FS22 3   1 VS21 1   

FS21 4   0 VS21 1

* NEG INPUT PROTECTION

VS11- 3  33 0

S11-  33  0 2 0 SP

FS12- 2   4 VS11- 1

FS11- 0   3 VS11- 1

VS21- 34  4 0 

S21-  0  34 2 0 SM

FS22- 3   2 VS21- 1

FS21- 4   0 VS21- 1

*********************************

.model sp vswitch(ron=300k roff=100g von=14.8 voff=14.7) 

.model sm vswitch(ron=3.5k roff=100g von=-15.1 voff=-15.0)

.MODEL DX D(IS=1.0E-24)

.MODEL QX NPN(IS=800.0E-18 BF=500)

.ENDS INA118



* A1_118 operational amplifier "macromodel" subcircuit

* created using Parts release 6.0 on 05/20/94 at 09:20

* Parts is a MicroSim product.

*

* connections:   non-inverting input

*                | inverting input

*                | | positive power supply

*                | | | negative power supply

*                | | | | output

*                | | | | |

.subckt A1_118  1 2 3 4 5

*

  c1   11 12 1.340E-12

  c2    6  7 10.00E-12

  dc    5 53 dx

  de   54  5 dx

  dlp  90 91 dx

  dln  92 90 dx

  dp    4  3 dx

  egnd 99  0 poly(2) (3,0) (4,0) 0 .5 .5

  fb    7 99 poly(5) vb vc ve vlp vln 0 127.3E6 -130E6 130E6 130E6 -130E6

  ga    6  0 11 12 110.0E-6

  gcm   0  6 10 99 11.00E-12

  iss   3 10 dc 10.00E-6

  hlim 90  0 vlim 1K

  j1   11  2 10 jx

  j2   12  1 10 jx

  r2    6  9 100.0E3

  rd1   4 11 9.095E3

  rd2   4 12 9.095E3

  ro1   8  5 50

  ro2   7 99 25

  rss  10 99 20.00E6

  vb    9  0 dc 0

  vc    3 53 dc .6

  ve   54  4 dc .6

  vlim  7  8 dc 0

  vlp  91  0 dc 20

  vln   0 92 dc 20

****************************

* A1_118 "E" - ENHANCEMENTS

****************************

* OUTPUT SUPPLY MIRROR

FQ3 0 20 POLY(1) VLIM 0 1

DQ1 20 21 DX

DQ2 22 20 DX

VQ1 21 0 0

VQ2 22 0 0 

FQ1 3 0 POLY(1) VQ1 0 1

FQ2 0 4 POLY(1) VQ2 0 -1

*****************************

.model dx D(Is=800.0E-18)

.model jx PJF(Is=15.00E-12 Beta=1.209E-3 Vto=-1)

.ends





* A2_118 operational amplifier "macromodel" subcircuit

* created using Parts release 6.0 on 05/20/94 at 09:20

* Parts is a MicroSim product.

*

* connections:   non-inverting input

*                | inverting input

*                | | positive power supply

*                | | | negative power supply

*                | | | | output

*                | | | | |

.subckt A2_118  1 2 3 4 5

*

  c1   11 12 1.340E-12

  c2    6  7 10.00E-12

  dc    5 53 dx

  de   54  5 dx

  dlp  90 91 dx

  dln  92 90 dx

  dp    4  3 dx

  egnd 99  0 poly(2) (3,0) (4,0) 0 .5 .5

  fb    7 99 poly(5) vb vc ve vlp vln 0 127.3E6 -130E6 130E6 130E6 -130E6

  ga    6  0 11 12 110.0E-6

  gcm   0  6 10 99 11.00E-12

  iss   3 10 dc 10.00E-6

  hlim 90  0 vlim 1K

  j1   11  2 10 jx

  j2   12  1 10 jx

  r2    6  9 100.0E3

  rd1   4 11 9.095E3

  rd2   4 12 9.095E3

  ro1   8  5 50

  ro2   7 99 25

  rss  10 99 20.00E6

  vb    9  0 dc 0

  vc    3 53 dc .6

  ve   54  4 dc .6

  vlim  7  8 dc 0

  vlp  91  0 dc 20

  vln   0 92 dc 20

****************************

* A2_118 "E" - ENHANCEMENTS

****************************

* OUTPUT SUPPLY MIRROR

FQ3 0 20 POLY(1) VLIM 0 1

DQ1 20 21 DX

DQ2 22 20 DX

VQ1 21 0 0

VQ2 22 0 0 

FQ1 3 0 POLY(1) VQ1 0 1

FQ2 0 4 POLY(1) VQ2 0 -1

****************************

.model dx D(Is=800.0E-18)

.model jx PJF(Is=15.00E-12 Beta=1.209E-3 Vto=-1)

.ends





* A3_118 operational amplifier "macromodel" subcircuit

* created using Parts release 6.0 on 05/20/94 at 09:22

* Parts is a MicroSim product.

*

* connections:   non-inverting input

*                | inverting input

*                | | positive power supply

*                | | | negative power supply

*                | | | | output

*                | | | | |

.subckt A3_118  1 2 3 4 5

*

  c1   11 12 3.501E-12

  c2    6  7 10.00E-12

  dc    5 53 dx

  de   54  5 dx

  dlp  90 91 dx

  dln  92 90 dx

  dp    4  3 dx

  egnd 99  0 poly(2) (3,0) (4,0) 0 .5 .5

  fb    7 99 poly(5) vb vc ve vlp vln 0 212.2E6 -210E6 210E6 210E6 -210E6

  ga    6  0 11 12 75.40E-6

  gcm   0  6 10 99 754.0E-12

  iee  10  4 dc 9.002E-6

  hlim 90  0 vlim 1K

  q1   11  2 13 qx

  q2   12  1 14 qx

  r2    6  9 100.0E3

  rc1   3 11 13.26E3

  rc2   3 12 13.26E3

  re1  13 10 7.514E3

  re2  14 10 7.514E3

  ree  10 99 22.22E6

  ro1   8  5 75

  ro2   7 99 75

  vb    9  0 dc 0

  vc    3 53 dc 1.400

  ve   54  4 dc .8

  vlim  7  8 dc 0

  vlp  91  0 dc 4.5

  vln   0 92 dc 11.5

****************************

* A3_118 "E" ENHANCEMENTS

****************************

*OUTPUT SUPPLY MIRROR

FQ3 0 20 POLY(1) VLIM 0 1

DQ1 20 21 DX

DQ2 22 20 DX

VQ1 21 0 0

VQ2 22 0 0 

FQ1 3 0 POLY(1) VQ1 260.8E-6 1

FQ2 0 4 POLY(1) VQ2 261.0E-6 -1

* SUPPLY CURRENT VARIATION

RQ 3 4 1.365E6

****************************

.model dx D(Is=800.0E-18)

.model qx NPN(Is=800.0E-18 Bf=4.500E3)

.ends